US04260619
The starting material is prepared as follows: To the suspension of 1.01 g of 2-(2-aminopropyl)-5-pyridinol hydrochloride in 40 ml of methylene chloride, 3.3 ml of pyridine are added, followed by 1.47 g of acetyl chloride while stirring at room temperature. After 17 hours an equal volume of saturated aqueous sodium bicarbonate is added, the organic layer separated, dried and evaporated. The residual oil is chromatographed on silica, using methanolethyl acetate (4:1) as eluant, to yield the 5-acetoxy-2-(2-acetylaminopropyl)-pyridine, showing in the IR-spectrum peaks at 1758 and 1658 cm-1.

reactant | 2-(2-aminopropyl)-5-pyridinol hydrochloride | 1.01 g | Cl.NC(CC1=NC=C(C=C1)O)C
reactant | acetyl chloride | 1.47 g | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 3.3 ml | N1=CC=CC=C1 | C5H5N
product | 5-acetoxy-2-(2-acetylaminopropyl)-pyridine | C(C)(=O)OC=1C=CC(=NC1)CC(C)NC(C)=O | C12H16N2O3
